US05849764
Step 9.1B 3-(2-tert-butoxycarbonylaminoethyl)-2-(3 5-dimethylphenyl)-1H-indole-5-carboxylic acid
To a suspension of 3-(2-tert-butoxycarbonylamino-ethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid ethyl ester (830 mg in 50 mL methanol) was added 8 mL of a 1.25N sodium hydroxide solution and the mixture heated to 75° C. on an oil bath. After 5.5 hours, an additional 3 mL of 1.25N sodium hydroxide were added and the reaction allowed to proceed for 2 more hours. At this time the mixture was cooled to room temperature and the reaction quenched by the addition of pH2 buffer. The mixture was extracted with the ethyl acetate, washed with saturated ammonium chloride solution and the organic portion dried over sodium sulfate. Concentration in vacuo provided the crude acid in quantitative yield.

reactant | sodium hydroxide | 1.25N | [OH-].[Na+]
reactant | sodium hydroxide | 1.25N, 3 mL | [OH-].[Na+]
reactant | 3-(2-tert-butoxycarbonylamino-ethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid ethyl ester | 50 mL, 830 mg | C(C)OC(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNC(=O)OC(C)(C)C | C26H32N2O4
product | 3-(2-tert-butoxycarbonylaminoethyl)-2-(3 5-dimethylphenyl)-1H-indole-5-carboxylic acid | quantitative yield | C(C)(C)(C)OC(=O)NCCC1=C(NC2=CC=C(C=C12)C(=O)O)C1=CC(=CC(=C1)C)C | C24H28N2O4
